US06472386B1
Synthesis of N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)oxazol-4-yl]methyl]homopiperazine
4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)oxazole (111 mg) and homopiperazine (18 mg) were treated in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)oxazole | 111 mg | ClCC=1N=C(OC1)C1=CC(=C(C(=C1)OC)OC)OC | C13H14ClNO4
reactant | homopiperazine | 18 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)oxazol-4-yl]methyl]homopiperazine | COC=1C=C(C=C(C1OC)OC)C=1OC=C(N1)CN1CCN(CCC1)CC=1N=C(OC1)C1=CC(=C(C(=C1)OC)OC)OC | C31H38N4O8
